2199-01-11 07:25:00 Physician Resident Progress Note
Chief Complaint: - patient was intermittently hypotensive with SBP
   80-90, gave 1.5L NS
   - last ABG 7.32/46/95/25
   - replaced coiled OG tube
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2199-1-10**] 11:00 PM
 INVASIVE VENTILATION - START [**2199-1-10**] 11:15 PM
 NON-INVASIVE VENTILATION - STOP [**2199-1-10**] 11:28 PM
 MULTI LUMEN - START [**2199-1-10**] 11:47 PM
 ARTERIAL LINE - START [**2199-1-11**] 01:33 AM
 BLOOD CULTURED - At [**2199-1-11**] 02:01 AM
 URINE CULTURE - At [**2199-1-11**] 03:01 AM
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2199-1-11**] 02:32 AM
   Vancomycin - [**2199-1-11**] 02:32 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2199-1-10**] 11:00 PM
   Fentanyl - [**2199-1-10**] 11:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-11**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.4
   HR: 73 (73 - 111) bpm
   BP: 96/49(64) {91/49(-10) - 127/69(87)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 54 Inch
             Total In:
                                                                    523 mL
                                                                  1,463 mL
   PO:
             TF:
   IVF:
                                                                    523 mL
                                                                  1,463 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    120 mL
   Urine:
   120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    523 mL
                                                                  1,344 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 710 (710 - 710) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   [**Year (2 digits) 1398**] Deferred: PEEP > 10, FiO2 > 60%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.32/46/95.[**Numeric Identifier 218**]/24/-2
   Ve: 8.4 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Well nourished, intubated and sedated
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to commands
   Labs / Radiology
   158 K/uL
   10.0 g/dL
   179 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.6 mEq/L
   19 mg/dL
   106 mEq/L
   139 mEq/L
   30.1 %
   5.7 K/uL
        [image002.jpg]
                             [**2199-1-10**]  08:44 PM
                             [**2199-1-11**]  12:20 AM
                             [**2199-1-11**]  03:28 AM
                             [**2199-1-11**]  03:39 AM
   WBC
   7.3
   5.7
   Hct
   36.3
   30.1
   Plt
   188
   158
   Cr
   1.0
   0.9
   TropT
   <0.01
   TCO2
   24
   25
   Glucose
   231
   179
   Other labs: PT / PTT / INR:13.2/23.9/1.1, CK / CKMB /
   Troponin-T://<0.01, Differential-Neuts:86.0 %, Lymph:12.0 %, Mono:1.5
   %, Eos:0.4 %, Lactic Acid:1.1 mmol/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 HYPOTENSION (NOT SHOCK)
   This is a 55 year-old female with a history of tracheobronchomalacia,
   COPD, HTN, HL who presents with respiratory distress.
   .
   # Respiratory Failure: Pt with history of tracheobronchomalacia and
   COPD presents with acute respiratory distress and then failure.  She
   recently had her Y-stent removed due to granulation tissue occluding
   the stent.  Possible worsening of her TBM causing occlusion of her
   airways.  Other possiblities include pneumonia secondary to aspiration
   given cough/secreations on BiPAP.  Additionally, COPD/bronchospasm may
   be contributing to her respiratory status.
   - Patient currently doing well on trial of PSV; will wean sedation,
   [**Last Name (LF) 1398**], [**First Name3 (LF) **] spontaneous breathing trial
   - sedation with Fentanyl/versed; attempt to lighten
   - IP will plan to replace left main stent on Monday if the patient does
   not get extubated over weekend, if so will need to be NPO at midnight
   on Sunday
   - will treat empirically with Cefepime/Vanco given patient was in the
   hospital on [**12-24**]- (day #1 is [**1-10**])- follow up sputum culture
   - albuterol and ipratropium nebs
   - Will hold on steroids
   - check blood cx/ sputum/ urine cx
   - daily CXR
   .
   #. Hypotension: Pt with SBP in the 90's now improved after IVF.  Likely
   multifactorial including PEEP, possible infection, hypovolemia.  See
   respiratory distress and infectious workup as above.
   - Central venous line (fem placed)
   - Transfuse for Hct > 30
   - IV fluid boluses and Levophed if needed to maintain MAP > 65 and UOP
   > 30cc/hr. Unable to get CVP from fem line
   - Broad spectrum antiobiotics with Vanco/Cefepime
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count fever curve.
   - Holding home BP meds
   .
   # FEN: NPO
   .
   # Access: Right fem CVL, a-line  , goal to place PIV vs PICC, d/c
   femoral line
   .
   # PPx: H2, [**Last Name (un) **] regimen, heparin sq
   .
   # Code: FULL
   .
   # Dispo: ICU
   .
   # Comm:[**Name (NI) 8875**] [**Name (NI) **] (Mother) [**Telephone/Fax (1) 12925**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2199-1-10**] 11:47 PM
   Arterial Line - [**2199-1-11**] 01:33 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree with
   the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, oxygenation and exam improved.  See my note from earlier for
   full presentation.
   Gen: intubated/sedated
   Chest: mild bronchospasm
 much improved
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: no edema
   Labs: as above
   Assessment:
   1)       Acute Respiratory Failure
   2)       Pneumonia
   3)       Trachoemalacia
   Plan:
   1)       Continue antibiotics
   2)       Continue albuterol/atrovent
   3)       IP to evaluate
   4)       Wean oxygen as tolerated
   Time Spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2199-1-11**] 05:09 PM ------

2199-01-12 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2199-1-11**] 11:00 AM
   -IP plans to place stent/bronch on Monday if not extubated
   -PICC order placed b/c unable to get PIV
   -Changed sedation to propofol to wean easier, turned off gtt at 6am for
   SBT; abg
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2199-1-11**] 07:53 PM
   Cefipime - [**2199-1-12**] 02:09 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2199-1-11**] 10:16 AM
   Heparin Sodium (Prophylaxis) - [**2199-1-12**] 02:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-12**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 99 (64 - 99) bpm
   BP: 139/73(95) {92/50(64) - 162/82(109)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,342 mL
                                                                    289 mL
   PO:
             TF:
   IVF:
                                                                  2,242 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    610 mL
   Urine:
                                                                    900 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,442 mL
                                                                   -321 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 454 (454 - 628) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.35/51/71/24/0
   Ve: 8.4 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   160 K/uL
   10.1 g/dL
   107 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.2 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   30.4 %
   9.0 K/uL
        [image002.jpg] MICRO: Prelim sputum no microorganisms on GS
                             [**2199-1-10**]  08:44 PM
                             [**2199-1-11**]  12:20 AM
                             [**2199-1-11**]  03:28 AM
                             [**2199-1-11**]  03:39 AM
                             [**2199-1-11**]  10:01 AM
                             [**2199-1-11**]  10:15 AM
                             [**2199-1-11**]  10:57 PM
                             [**2199-1-12**]  04:03 AM
   WBC
   7.3
   5.7
   9.0
   Hct
   36.3
   30.1
   29.5
   30.4
   Plt
   188
   158
   160
   Cr
   1.0
   0.9
   0.6
   TropT
   <0.01
   TCO2
   24
   25
   25
   29
   Glucose
   [**Telephone/Fax (3) 12938**]
   Other labs: PT / PTT / INR:12.2/22.5/1.0, CK / CKMB /
   Troponin-T://<0.01, Differential-Neuts:86.0 %, Lymph:12.0 %, Mono:1.5
   %, Eos:0.4 %, Lactic Acid:1.1 mmol/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 HYPOTENSION (NOT SHOCK)
   This is a 55 year-old female with a history of tracheobronchomalacia,
   COPD, HTN, HL who presents with respiratory distress.
   .
   # Respiratory Failure: Pt with history of tracheobronchomalacia and
   COPD presents with acute respiratory distress and then failure.  She
   recently had her Y-stent removed due to granulation tissue occluding
   the stent.  Possible worsening of her TBM causing occlusion of her
   airways.  Other possiblities include pneumonia secondary to aspiration
   given cough/secreations on BiPAP.  Additionally, COPD/bronchospasm may
   be contributing to her respiratory status.
   - RSBI/SBT this AM and hope to extubate
   - Propofol gtt if sedation needed; currently off
   - IP will plan to replace left main stent on Monday if the patient does
   not get extubated over weekend, if so will need to be NPO at midnight
   on Sunday
   - Continue empiric coverage for pna Cefepime/Vanco given patient was in
   the hospital on [**12-24**]- (day #1 is [**1-10**])- follow up sputum culture
   - albuterol and ipratropium nebs
   - Will hold on steroids
   - check blood cx/ sputum/ urine cx
   - daily CXR
   .
   #. Hypotension: Pt with SBP in the 90's now improved after IVF.  Likely
   multifactorial including PEEP, possible infection, hypovolemia.  See
   respiratory distress and infectious workup as above.
   - Now improving; most likely [**1-15**] infection. Off of pressors over past
   24 hrs.
   - Transfuse for Hct > 30
   - IV fluid boluses and Levophed if needed to maintain MAP > 65 and UOP
   > 30cc/hr. Unable to get CVP from fem line
   - Broad spectrum antiobiotics with Vanco/Cefepime
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count fever curve.
   - Holding home BP meds
   .
   # FEN: NPO
   .
   # Access: D/C fem line, PICC ordered for today
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2199-1-10**] 11:47 PM
   Arterial Line - [**2199-1-11**] 01:33 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-01-12 09:59:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 SPUTUM CULTURE - At [**2199-1-11**] 11:00 AM
   became agitated off propofol, vomited, no clear aspiration noted.
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2199-1-12**] 02:09 AM
   Vancomycin - [**2199-1-12**] 08:01 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2199-1-11**] 10:16 AM
   Heparin Sodium (Prophylaxis) - [**2199-1-12**] 02:09 AM
   Propofol - [**2199-1-12**] 08:42 AM
   Other medications:
   vancomycin, albuterol, atrovent, RISS, peridex, heparin, cefepime,
   propfol at 20mg
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-12**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 86 (64 - 99) bpm
   BP: 154/76(102) {92/50(64) - 162/82(109)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,342 mL
                                                                    575 mL
   PO:
             TF:
   IVF:
                                                                  2,242 mL
                                                                    575 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    775 mL
   Urine:
                                                                    900 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,442 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 530 (454 - 628) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.37/48/82.[**Numeric Identifier 143**]/24/1
   Ve: 9.2 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   160 K/uL
   107 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.2 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   30.4 %
   9.0 K/uL
        [image002.jpg]
                             [**2199-1-10**]  08:44 PM
                             [**2199-1-11**]  12:20 AM
                             [**2199-1-11**]  03:28 AM
                             [**2199-1-11**]  03:39 AM
                             [**2199-1-11**]  10:01 AM
                             [**2199-1-11**]  10:15 AM
                             [**2199-1-11**]  10:57 PM
                             [**2199-1-12**]  04:03 AM
                             [**2199-1-12**]  06:42 AM
   WBC
   7.3
   5.7
   9.0
   Hct
   36.3
   30.1
   29.5
   30.4
   Plt
   188
   158
   160
   Cr
   1.0
   0.9
   0.6
   TropT
   <0.01
   TCO2
   24
   25
   25
   29
   29
   Glucose
   [**Telephone/Fax (3) 12938**]
   Other labs: PT / PTT / INR:12.2/22.5/1.0, CK / CKMB /
   Troponin-T://<0.01, Differential-Neuts:86.0 %, Lymph:12.0 %, Mono:1.5
   %, Eos:0.4 %, Lactic Acid:1.1 mmol/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.0 mg/dL
   Imaging: CXr stable, low lung volumes, ? LLL infiltrate.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): WIll SBT on 5/0 and 40%,
   and if she tolerates this, we'll extubate this am. wil continue broad
   spectum antibiotics pending culture data. continue nebs. suctioning
   requirement is low.
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA): IP following.
 HYPOTENSION (NOT SHOCK): resolved.
   ICU Care
   Nutrition: TF on hold for extubation.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2199-1-10**] 11:47 PM
   Arterial Line - [**2199-1-11**] 01:33 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above.  In addition I would add/emphasize:
   AAOx3
   Lungs rhonchi
   Abd +bs, nontender
   Ext tr edema b/l
   Tracheobronchomalacia
   -stent removed several weeks ago b/c developing granulation tissue
   Resp failure/Pneumonia
   -Agree with SBT/ extubation
   Emesis
   -check amylase/lipase
   Hemodynamic instability
   -now resolved
   Anemia
   Remainder of plan per note above
   Time spent on care: 32minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 973**], MD
   on:[**2199-1-12**] 14:06 ------

2199-01-13 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2199-1-12**] 10:48 AM
 PICC LINE - START [**2199-1-12**] 10:49 AM
 INVASIVE VENTILATION - STOP [**2199-1-12**] 11:44 AM
   - Extubated ~ 2pm
   - Vomited x 2
   - OSH ([**Hospital3 2755**]) with cephalosporin sensitive e-coli
   - KUB with configuration of volvulus but without proximal dilatation
   - GI, Surgery consulted, recommended NGT, avoid narcotics, serial belly
   exams
   - Serial exams unremarkable
   - Started BP Meds: Hydralazine 10mg IV, Clonidine patch per home
   regimen
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2199-1-12**] 02:09 AM
   Vancomycin - [**2199-1-12**] 08:01 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2199-1-12**] 08:42 AM
   Famotidine (Pepcid) - [**2199-1-12**] 10:30 AM
   Furosemide (Lasix) - [**2199-1-12**] 10:35 AM
   Hydralazine - [**2199-1-12**] 10:26 PM
   Heparin Sodium (Prophylaxis) - [**2199-1-13**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Gastrointestinal: Nausea, Emesis
   Genitourinary: Foley
   Flowsheet Data as of  [**2199-1-13**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 94 (84 - 144) bpm
   BP: 134/75(89) {110/49(66) - 155/86(94)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    809 mL
                                                                     72 mL
   PO:
             TF:
   IVF:
                                                                    809 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  3,805 mL
                                                                    730 mL
   Urine:
                                                                  3,505 mL
                                                                    730 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,996 mL
                                                                   -658 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 530 (530 - 530) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.36/54/92.[**Numeric Identifier 132**]/30/2
   Ve: 9.2 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Hypoactive bowel sounds
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   172 K/uL
   10.9 g/dL
   136 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   8 mg/dL
   98 mEq/L
   137 mEq/L
   32.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2199-1-12**]  04:03 AM
                             [**2199-1-12**]  06:42 AM
                             [**2199-1-12**]  10:38 AM
                             [**2199-1-12**]  01:54 PM
                             [**2199-1-12**]  03:35 PM
                             [**2199-1-12**]  03:37 PM
                             [**2199-1-12**]  05:01 PM
                             [**2199-1-12**]  10:09 PM
                             [**2199-1-12**]  10:16 PM
                             [**2199-1-13**]  03:39 AM
   WBC
   9.0
   7.6
   Hct
   30.4
   32.4
   Plt
   160
   172
   Cr
   0.6
   0.5
   0.5
   0.5
   TCO2
   29
   30
   29
   31
   31
   32
   Glucose
   107
   178
   161
   136
   Other labs: PT / PTT / INR:12.2/22.5/1.0, CK / CKMB /
   Troponin-T://<0.01, ALT / AST:19/22, Alk Phos / T Bili:74/0.6, Amylase
   / Lipase:19/15, Differential-Neuts:86.0 %, Lymph:12.0 %, Mono:1.5 %,
   Eos:0.4 %, Lactic Acid:1.5 mmol/L, LDH:166 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 NAUSEA / VOMITING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 HYPOTENSION (NOT SHOCK)
   This is a 55 year-old female with a history of tracheobronchomalacia,
   COPD, HTN, HL who presented with respiratory distress, now extubated
   and with resolving nausea / vomiting
   .
   # Respiratory Failure: Pt with history of tracheobronchomalacia and
   COPD presents with acute respiratory distress and then failure.  She
   recently had her Y-stent removed due to granulation tissue occluding
   the stent.  Possible worsening of her TBM causing occlusion of her
   airways.  Other possiblities include pneumonia secondary to aspiration
   given cough/secreations on BiPAP.  Additionally, COPD/bronchospasm may
   be contributing to her respiratory status.
   - No significant secretions,
   -F/U with IP if any further recs
   - Continue empiric coverage for pna Cefepime/Vanco (day [**3-21**]) given
   patient was in the hospital on [**12-24**]- (day #1 is [**1-10**])- follow up sputum
   culture
   - albuterol and ipratropium nebs
   - Will hold on steroids as not bronchospastic on exam
   - follow up blood cx/ sputum/ urine cx
   - daily CXR
   .
   # Nausea / vomiting: Patient with hypoactive bowel sounds and
   concerning initial KUB for early volvulus. Given frail state, Surgery /
   GI consulted, however patient improving with resolved distention on
   KUB, normal LFT
s / Lipase, and no evidence of ischemia. This is most
   likely ileus from sedation used during intubation
   -- Serial abdominal exams
   -- Avoid narcotics
   -- Schedule antiemetics
   -- NGT to LIWS, if no futher bileus secretions will pull later today
   - f/u GI and surgery
   .
   #. Hypotension: Resolved, patient now hypertensive likely in setting of
   clonidine rebound and nausea / vomiting.
   #. Hypertension: Started clonidine patch per home regimen and
   metoprolol 25mg [**Hospital1 7**], will use hydralazine pushes to bridge while
   clonidine patch becomes effective
   .
   #. NSVT: several runs of NSVT overnight. Repleted K and Mg overnight
   - monitor Mg and K and replete lytes
   - ECG
   - CE
   - monitor on tele
   - hold on ECHO for now, unless persistent NSVT
   .
   # FEN: NPO  for now
   .
   # Access: D/C fem line, PICC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2199-1-11**] 01:33 AM
   PICC Line - [**2199-1-12**] 10:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2199-01-13 10:10:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 MULTI LUMEN - STOP [**2199-1-12**] 10:48 AM
 PICC LINE - START [**2199-1-12**] 10:49 AM
 INVASIVE VENTILATION - STOP [**2199-1-12**] 11:44 AM
 ARTERIAL LINE - STOP [**2199-1-13**] 03:36 AM
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2199-1-12**] 02:09 AM
   Vancomycin - [**2199-1-13**] 07:55 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2199-1-12**] 10:30 AM
   Furosemide (Lasix) - [**2199-1-12**] 10:35 AM
   Hydralazine - [**2199-1-12**] 10:26 PM
   Heparin Sodium (Prophylaxis) - [**2199-1-13**] 03:00 AM
   Other medications:
   ipratropium brominde, compazine, zofran, clonidine patch, pantoprazole,
   cefepime, vanco, s/c heparin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-13**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 88 (84 - 144) bpm
   BP: 134/61(74) {110/49(66) - 155/86(94)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    809 mL
                                                                    297 mL
   PO:
             TF:
   IVF:
                                                                    809 mL
                                                                    297 mL
   Blood products:
   Total out:
                                                                  3,805 mL
                                                                    870 mL
   Urine:
                                                                  3,505 mL
                                                                    870 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,996 mL
                                                                   -573 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   FiO2: 50% Face tent
   SpO2: 94%
   ABG: 7.36/54/92.[**Numeric Identifier 132**]/30/2
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   172 K/uL
   136 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   8 mg/dL
   98 mEq/L
   137 mEq/L
   32.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2199-1-12**]  04:03 AM
                             [**2199-1-12**]  06:42 AM
                             [**2199-1-12**]  10:38 AM
                             [**2199-1-12**]  01:54 PM
                             [**2199-1-12**]  03:35 PM
                             [**2199-1-12**]  03:37 PM
                             [**2199-1-12**]  05:01 PM
                             [**2199-1-12**]  10:09 PM
                             [**2199-1-12**]  10:16 PM
                             [**2199-1-13**]  03:39 AM
   WBC
   9.0
   7.6
   Hct
   30.4
   32.4
   Plt
   160
   172
   Cr
   0.6
   0.5
   0.5
   0.5
   TCO2
   29
   30
   29
   31
   31
   32
   Glucose
   107
   178
   161
   136
   Other labs: PT / PTT / INR:12.2/22.5/1.0, CK / CKMB /
   Troponin-T://<0.01, ALT / AST:19/22, Alk Phos / T Bili:74/0.6, Amylase
   / Lipase:19/15, Differential-Neuts:86.0 %, Lymph:12.0 %, Mono:1.5 %,
   Eos:0.4 %, Lactic Acid:1.5 mmol/L, LDH:166 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: Left retrocardiac opacity stable.
   Microbiology: negative today.
   Assessment and Plan
 NAUSEA / VOMITING: ileus vs early sigmoid volvulus better this am s/p
   NG tube decompression. Will contine NG given ongoing nausea.. passing
   some gas. will monitor for bowel movement.. once she passes a BM will
   d/c NG tube.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): still with significant O2
   requirement, ? atelectasis, vs  pneumonia in the left base, ?
   granulation tissue with obstruction inteh left mianstem.. if she
   doensot improve with medical managment of atelectasis will d/w IP
   bronch for assessment of LLL collapse in am. Will get up into the
   chair, hypercarbia is stable.  Wean O2 as tolerated.
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA): IP following.
NSVT: episode overnight, electrolytes within normal limits. Will
   obtain EKG, check cardiac enzymes. Will hold off on echo given normal
   EF [**8-22**]. Will resume home bblocker.
   ICU Care
   Nutrition:
   Comments: due to ileus will hold off on feeding.
   Glycemic Control:
   Lines:
   PICC Line - [**2199-1-12**] 10:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, given need for high FiO2.
   ------ Protected Section ------
   ICU Attending Coverage
   I saw and examined the patient with the pulmonary fellow, the
   assessment and plan was discussed in detail. I would underscore the
   following.
   Unable to tolerate her NI ventilation overnight (given OSA) in setting
   of abdominal distention and nausea.  Much improved symptomatically
   following NGT placement and decompression.  Abdomen soft on exam. CXR
   with atelectasis/infiltrate.  [**Month (only) 51**] be able to improve atelectasis if she
   is able to tolerate NI ventilation tonight.  Otherwise agree with
   assessment and plan as detailed in Dr. [**First Name (STitle) 10164**]
s note above.
   Patient is critically ill given tenuous respiratory status
   Time spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 3079**] [**Last Name (NamePattern1) 3080**], MD
   on:[**2199-1-13**] 13:21 ------

2199-01-14 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- GI and surgery evaluated no further evidence of volvulus. Pt passing
   gas. NPO until has BM
   -- CE negative
   -- Spoke with IP- no plan for bronch today
   -- sputum cx resp flora
   -- CPAP overnight
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2199-1-12**] 02:09 AM
   Vancomycin - [**2199-1-13**] 08:08 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2199-1-13**] 06:08 PM
   Hydralazine - [**2199-1-14**] 04:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-14**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 101 (78 - 111) bpm
   BP: 126/71(81) {123/55(71) - 157/87(100)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                    640 mL
                                                                     61 mL
   PO:
             TF:
   IVF:
                                                                    640 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    280 mL
   Urine:
                                                                  1,525 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -885 mL
                                                                   -219 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Hypoactive bowel sounds
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   213 K/uL
   11.0 g/dL
   118 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.9 mEq/L
   10 mg/dL
   97 mEq/L
   135 mEq/L
   32.7 %
   5.0 K/uL
        [image002.jpg]
                             [**2199-1-12**]  06:42 AM
                             [**2199-1-12**]  10:38 AM
                             [**2199-1-12**]  01:54 PM
                             [**2199-1-12**]  03:35 PM
                             [**2199-1-12**]  03:37 PM
                             [**2199-1-12**]  05:01 PM
                             [**2199-1-12**]  10:09 PM
                             [**2199-1-12**]  10:16 PM
                             [**2199-1-13**]  03:39 AM
                             [**2199-1-14**]  04:07 AM
   WBC
   7.6
   5.0
   Hct
   32.4
   32.7
   Plt
   172
   213
   Cr
   0.5
   0.5
   0.5
   0.5
   TropT
   <0.01
   TCO2
   29
   30
   29
   31
   31
   32
   Glucose
   178
   161
   136
   118
   Other labs: PT / PTT / INR:12.6/23.5/1.1, CK / CKMB /
   Troponin-T:183/3/<0.01, ALT / AST:19/22, Alk Phos / T Bili:74/0.6,
   Amylase / Lipase:19/15, Differential-Neuts:67.0 %, Lymph:23.2 %,
   Mono:8.3 %, Eos:1.4 %, Lactic Acid:1.5 mmol/L, LDH:166 IU/L, Ca++:9.0
   mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 URINARY TRACT INFECTION (UTI)
 NAUSEA / VOMITING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 HYPOTENSION (NOT SHOCK)
   This is a 55 year-old female with a history of tracheobronchomalacia,
   COPD, HTN, HL who presented with respiratory distress, now extubated
   and with resolving nausea / vomiting
   # Respiratory Failure: Pt with history of tracheobronchomalacia and
   COPD presents with acute respiratory distress and then failure.  She
   recently had her Y-stent removed due to granulation tissue occluding
   the stent.  Possible worsening of her TBM causing occlusion of her
   airways.  Other possiblities include pneumonia secondary to aspiration
   given cough/secreations on BiPAP.  Additionally, COPD/bronchospasm may
   be contributing to her respiratory status.
   - No significant secretions,
   -IP following no plan for bronch today
   - Continue empiric coverage for pna Cefepime/Vanco (day #[**4-20**]) given
   patient was in the hospital on [**12-24**]- (day #1 is [**1-10**])- follow up sputum
   culture
   - albuterol and ipratropium nebs
   - Will hold on steroids as not bronchospastic on exam
   - follow up blood cx/ sputum/ urine cx
   - wean O2 as tolerated
   .
   # Nausea / vomiting: Patient with hypoactive bowel sounds and
   concerning initial KUB for early volvulus. Given frail stae, Surgery /
   GI consulted, however patient improving with resolved distention on
   KUB, normal LFT
s / Lipase, and no evidence of ischemia. This is most
   likely ileus from sedation used during intubation. Pt now passing
   flatus
   -- Serial abdominal exams
   -- Avoid narcotics
   -- Schedule antiemetics
   -- d/c NGT today; advance diet as tolerated
   -- Surgery signed off
   .
   #. Hypotension: Resolved, patient now hypertensive likely in setting of
   clonidine rebound and nausea / vomiting.
   #. Hypertension: Started clonidine patch per home regimen and
   metoprolol 25mg [**Hospital1 7**], will use hydralazine pushes to bridge while
   clonidine patch becomes effective
   .
   #. NSVT: several runs of NSVT overnight. Repleted K and Mg overnight
   - monitor Mg and K and replete lytes
   - ECG
   - CE
   - monitor on tele
   - hold on ECHO for now, unless persistent NSVT
   ICU Care
   Nutrition: advance diet as tolerated
   Glycemic Control:
   Lines:
   PICC Line - [**2199-1-12**] 10:49 AM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: Omeprazole 40mg PO (on at home for GERD)
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floor

2199-01-14 11:10:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Cardiac enzymes negative. No plan for bronch per IP. Sputum culture
   with respiratory flora. Tolerated Bipap overnight.
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2199-1-12**] 02:09 AM
   Vancomycin - [**2199-1-14**] 08:14 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2199-1-13**] 06:08 PM
   Heparin Sodium (Prophylaxis) - [**2199-1-14**] 10:25 AM
   Hydralazine - [**2199-1-14**] 10:25 AM
   Other medications:
   vanocmycin, insulin, cefepime, pantoprazole, clonidine, metoprolol.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-14**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 74 (73 - 111) bpm
   BP: 131/74(89) {123/59(70) - 157/87(100)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    640 mL
                                                                    337 mL
   PO:
             TF:
   IVF:
                                                                    640 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    490 mL
   Urine:
                                                                  1,525 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -885 mL
                                                                   -153 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilateral bases, no egophony or BBS)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   213 K/uL
   118 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.9 mEq/L
   10 mg/dL
   97 mEq/L
   135 mEq/L
   32.7 %
   5.0 K/uL
        [image002.jpg]
                             [**2199-1-12**]  06:42 AM
                             [**2199-1-12**]  10:38 AM
                             [**2199-1-12**]  01:54 PM
                             [**2199-1-12**]  03:35 PM
                             [**2199-1-12**]  03:37 PM
                             [**2199-1-12**]  05:01 PM
                             [**2199-1-12**]  10:09 PM
                             [**2199-1-12**]  10:16 PM
                             [**2199-1-13**]  03:39 AM
                             [**2199-1-14**]  04:07 AM
   WBC
   7.6
   5.0
   Hct
   32.4
   32.7
   Plt
   172
   213
   Cr
   0.5
   0.5
   0.5
   0.5
   TropT
   <0.01
   TCO2
   29
   30
   29
   31
   31
   32
   Glucose
   178
   161
   136
   118
   Other labs: PT / PTT / INR:12.6/23.5/1.1, CK / CKMB /
   Troponin-T:183/3/<0.01, ALT / AST:19/22, Alk Phos / T Bili:74/0.6,
   Amylase / Lipase:19/15, Differential-Neuts:67.0 %, Lymph:23.2 %,
   Mono:8.3 %, Eos:1.4 %, Lactic Acid:1.5 mmol/L, LDH:166 IU/L, Ca++:9.0
   mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Imaging: improved aeration in the LLL, still with partial collapse of
   the LLL
   Microbiology: Sputum finalized respiratory flora
   Urine finalized no growth
   Blood cultures no growth to date
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]); tracheobronchomalacia with
   granulation tissue in the LLL/LM, empiricially treating
   tracheobronchitis vs pneumonia [**Hospital 1853**] hospital acquired pathogens due to
   recent instrumentation with Vanco/Cefepime x8days. Much improved.
   persistent O2 reuqirment is likely related to atelectasis. Will get up
   to chair and consult PT.
 HYPERTENSION, BENIGN: resumed lopressor and clonidine patch BP
   improved.
 NAUSEA / VOMITING: ileus resolved, will d/c NG tube and start diet
   with nurse [**Last Name (Titles) 12972**].
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA): IP following.
   D/w IP ? bronch for evaluation of Lmainstem granulation tissue and post
   obstructive process.
 NSVT: no further episodes, cardiac markers negative, will continue to
   monitor on tele, if she has recurrent episodes can consider echo.
   ICU Care
   Nutrition:
   Comments: start diet with RN observation.
   Glycemic Control:
   Lines:
   PICC Line - [**2199-1-12**] 10:49 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date. I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan. I would add/emphasize the following:
   55 y o F with a history of OSA, COPD, and tracheobronchomalacia s/p Y
   stent removed 2 weeks ago d/t development of granulation tissue in left
   mainstem, presented wtih SOB, cough, and sputum. She was found to be
   wheezy and had an acute episode of coughing, ? stridorous on arrival to
   the MICU requiring intubation for ! 24 hours. Extubated 2 days ago.
   Had nausea and vomiting, KUB showed ? sigmoid volvulus that improved
   after NG tube decompression
 more likely resolved ileus. Being treated
   empirically for LLL pneumonia (air bronchograms on CXR) with vanco and
   cefepime. Also gets nocturnal CPAP for hx of sleep disordered
   breathing.
   Stable hemodynamics though increasing O2 requirement today. Encourage
   incentive spirometry. C/w nebs. Stable to transfer to floor.
   Time spent 28 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2199-1-14**] 18:50 ------

2199-01-15 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   -called out to floor
   -IP no plans to bronch for now; will watch over next few days on floor
   -d/c NGT, advancing diet
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2199-1-14**] 08:50 PM
   Cefipime - [**2199-1-15**] 02:09 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2199-1-14**] 10:25 AM
   Heparin Sodium (Prophylaxis) - [**2199-1-14**] 11:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-15**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 109 (73 - 109) bpm
   BP: 102/55(66) {88/48(60) - 133/93(99)} mmHg
   RR: 25 (9 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,172 mL
                                                                    898 mL
   PO:
             TF:
   IVF:
                                                                  1,112 mL
                                                                    898 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    205 mL
   Urine:
                                                                    780 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    392 mL
                                                                    693 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   181 K/uL
   10.6 g/dL
   110 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   14 mg/dL
   99 mEq/L
   137 mEq/L
   32.2 %
   5.0 K/uL
        [image002.jpg]
                             [**2199-1-12**]  10:38 AM
                             [**2199-1-12**]  01:54 PM
                             [**2199-1-12**]  03:35 PM
                             [**2199-1-12**]  03:37 PM
                             [**2199-1-12**]  05:01 PM
                             [**2199-1-12**]  10:09 PM
                             [**2199-1-12**]  10:16 PM
                             [**2199-1-13**]  03:39 AM
                             [**2199-1-14**]  04:07 AM
                             [**2199-1-15**]  03:58 AM
   WBC
   7.6
   5.0
   5.0
   Hct
   32.4
   32.7
   32.2
   Plt
   172
   213
   181
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   TropT
   <0.01
   TCO2
   30
   29
   31
   31
   32
   Glucose
   178
   161
   136
   118
   110
   Other labs: PT / PTT / INR:12.4/27.2/1.0, CK / CKMB /
   Troponin-T:183/3/<0.01, ALT / AST:19/22, Alk Phos / T Bili:74/0.6,
   Amylase / Lipase:19/15, Differential-Neuts:54.0 %, Band:0.0 %,
   Lymph:37.0 %, Mono:5.0 %, Eos:1.0 %, Lactic Acid:1.5 mmol/L, LDH:166
   IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   This is a 55 year-old female with a history of tracheobronchomalacia,
   COPD, HTN, HL who presented with respiratory distress, now extubated
   and with resolving nausea / vomiting
   # Respiratory Failure: Pt with history of tracheobronchomalacia and
   COPD presents with acute respiratory distress and then failure.  She
   recently had her Y-stent removed due to granulation tissue occluding
   the stent.  Possible worsening of her TBM causing occlusion of her
   airways.  Other possiblities include pneumonia secondary to aspiration
   given cough/secreations on BiPAP.  Additionally, COPD/bronchospasm may
   be contributing to her respiratory status.
   - No significant secretions,
   -IP following no plan for bronch today
   - Continue empiric coverage for pna Cefepime/Vanco (day #[**4-20**]) given
   patient was in the hospital on [**12-24**]- (day #1 is [**1-10**])- follow up sputum
   culture
   - albuterol and ipratropium nebs
   - Will hold on steroids as not bronchospastic on exam
   - follow up blood cx/ sputum/ urine cx
   - wean O2 as tolerated
   .
   # Nausea / vomiting: Patient with hypoactive bowel sounds and
   concerning initial KUB for early volvulus. Given frail stae, Surgery /
   GI consulted, however patient improving with resolved distention on
   KUB, normal LFT
s / Lipase, and no evidence of ischemia. This is most
   likely ileus from sedation used during intubation. Pt now passing
   flatus
   -- Serial abdominal exams
   -- Avoid narcotics
   -- Schedule antiemetics
   -- d/c NGT today; advance diet as tolerated
   -- Surgery signed off
   .
   #. Hypotension: Resolved, patient now hypertensive likely in setting of
   clonidine rebound and nausea / vomiting.
   #. Hypertension: Started clonidine patch per home regimen and
   metoprolol 25mg [**Hospital1 7**], will use hydralazine pushes to bridge while
   clonidine patch becomes effective
   .
   #. NSVT: several runs of NSVT overnight. Repleted K and Mg overnight
   - monitor Mg and K and replete lytes
   - ECG
   - CE
   - monitor on tele
   - hold on ECHO for now, unless persistent NSVT
 HYPERTENSION, BENIGN
 URINARY TRACT INFECTION (UTI)
 NAUSEA / VOMITING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2199-1-12**] 10:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-01-15 11:32:00 Physician Attending Progress Note
Chief Complaint: dizziness, coughing fits.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Doing well, decreased urine output overnight started on maintenance
   fluids.
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2199-1-15**] 02:09 AM
   Vancomycin - [**2199-1-15**] 08:17 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-1-15**] 08:17 AM
   Omeprazole (Prilosec) - [**2199-1-15**] 08:17 AM
   Other medications:
   vanco, cefepime, insulin sliding scale, hydral, clonidine, ipratropium,
   lopressor, omeprazole.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-15**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 92 (75 - 109) bpm
   BP: 104/72(79) {88/48(60) - 131/93(105)} mmHg
   RR: 24 (9 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,172 mL
                                                                  1,720 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  1,112 mL
                                                                  1,480 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    355 mL
   Urine:
                                                                    780 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    392 mL
                                                                  1,365 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   181 K/uL
   110 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   14 mg/dL
   99 mEq/L
   137 mEq/L
   32.2 %
   5.0 K/uL
        [image002.jpg]
                             [**2199-1-12**]  10:38 AM
                             [**2199-1-12**]  01:54 PM
                             [**2199-1-12**]  03:35 PM
                             [**2199-1-12**]  03:37 PM
                             [**2199-1-12**]  05:01 PM
                             [**2199-1-12**]  10:09 PM
                             [**2199-1-12**]  10:16 PM
                             [**2199-1-13**]  03:39 AM
                             [**2199-1-14**]  04:07 AM
                             [**2199-1-15**]  03:58 AM
   WBC
   7.6
   5.0
   5.0
   Hct
   32.4
   32.7
   32.2
   Plt
   172
   213
   181
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   TropT
   <0.01
   TCO2
   30
   29
   31
   31
   32
   Glucose
   178
   161
   136
   118
   110
   Other labs: PT / PTT / INR:12.4/27.2/1.0, CK / CKMB /
   Troponin-T:183/3/<0.01, ALT / AST:19/22, Alk Phos / T Bili:74/0.6,
   Amylase / Lipase:19/15, Differential-Neuts:54.0 %, Band:0.0 %,
   Lymph:37.0 %, Mono:5.0 %, Eos:1.0 %, Lactic Acid:1.5 mmol/L, LDH:166
   IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR clear
   Assessment and Plan
 HYPERTENSION, BENIGN: improved on home regimen.
 NAUSEA / VOMITING: improved
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): resolved on RA.
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA): needs follow
   up with IP as an oupatient
 low urien output: encourage po.
Dispo: can likely go home thursday after she completes IV antibiotics
   course.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:
   Lines:
   PICC Line - [**2199-1-12**] 10:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: